US07504413B2
N-{(1S)-1-[(4-Bromophenyl)methyl]-3-hydroxypropyl)-3-cyano-4-[(1-methylethyl)oxy]benzamide
To a suspension of (3S)-3-Amino-4-(4-bromophenyl)-1-butanol hydrochloride (1.80 g, 6.42 mmol) in dry DMF (32 mL) was added N,N-diisopropylethyl amine (2.49 g, 19.3 mmol) and the resultant clear solution was stirred for 3 min. 3-Cyano-4-[(1-methylethyl)oxy]benzoic acid (1.45 g, 7.06 mmol) and HBTU (2.68 g, 7.06 mmol) were added and the reaction was stirred at rt under nitrogen. After 1.5 h, the reaction mixture was quenched with water (50 mL) and extracted with EtOAc (3×30 mL). The extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (75% EtOAc/hexanes) to give 2.18 g (78%) of the title compound as a white solid. LC/MS (ES) m/e 431.2 (M+H)+.

reactant | (3S)-3-Amino-4-(4-bromophenyl)-1-butanol hydrochloride | 6.42 mmol, 1.80 g | Cl.N[C@H](CCO)CC1=CC=C(C=C1)Br
reactant | N,N-diisopropylethyl amine | 19.3 mmol, 2.49 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-Cyano-4-[(1-methylethyl)oxy]benzoic acid | 7.06 mmol, 1.45 g | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | HBTU | 7.06 mmol, 2.68 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 32 mL | CN(C)C=O | C3H7NO
product | N-{(1S)-1-[(4-Bromophenyl)methyl]-3-hydroxypropyl)-3-cyano-4-[(1-methylethyl)oxy]benzamide | 2.18 g, 78% | BrC1=CC=C(C=C1)C[C@@H](CCO)NC(C1=CC(=C(C=C1)OC(C)C)C#N)=O | C21H23BrN2O3
